datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([C:13]([S:14][H:24])[c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13]([C:12]([H:21])([H:22])[H:23])([S:14][H:24])[c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29],-15.0624
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[O:11][O:12]>>[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:6])[H:7].[H:5][O:11][O:12],217.568
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:16])([H:17])[H:18])[c:7]1[c:8]([H:19])[c:9]([H:20])[c:10]([H:21])[c:11]([H:22])[c:12]1[H:23])([H:13])([H:14])[H:15]>>[C:0](=[S:1])[H:3].[H:2][C:5]([C:4]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[c:7]1[c:8]([H:19])[c:9]([H:20])[c:10]([H:21])[c:11]([H:22])[c:12]1[H:23],114.809
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([C:14]([H:25])([H:26])[H:27])=[C:15]([c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:28])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:22])([H:23])[H:24])([C:14]([H:25])([H:26])[H:27])[C:15]([c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:28])[H:5],38.7438
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([H:18])[H:19])[C:13](=[C:14]([H:21])[H:22])[H:20])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])([C:12]([H:18])[H:19])[C:13](=[C:14]([H:21])[H:22])[H:20])[H:4],47.8231
[C:0]([C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])([H:7])[H:8]>>[C:0]([C:1]1([H:6])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:7])[H:8],169.0336
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:15])[H:6])([H:4])[H:5].[C:11](=[C:12]([H:16])[H:17])([H:13])[H:14],-0.548104
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3][O:4][H:11])[H:7])([H:5])[H:6]>>[C:0]1([H:5])([H:6])[C:1]([C:2]([H:8])([H:9])[H:10])([H:7])[O:3]1.[O:4][H:11],92.048
[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]([H:16])[c:5]2[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]([H:20])[c:10]12)([H:11])([H:12])[H:13].[O:21][O:22][H:23]>>[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]([H:16])[c:5]2[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]([H:20])[c:10]12)([H:12])[H:13].[H:11][O:21][O:22][H:23],61.44204
[C:0](#[C:1][c:2]1[c:3]([H:17])[c:4]([H:18])[c:5]2[c:6]([c:7]([H:19])[c:8]([H:20])[c:9]3[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]23)[c:15]1[H:25])[H:16].[H:26]>>[C:0](#[C:1][c:2]1[c:3]([H:17])[c:4]([H:18])[c:5]2[c:6]([c:7]([H:19])[c:8]([H:20])[c:9]3[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13][c:14]23)[c:15]1[H:25])[H:16].[H:24][H:26],23.8625
[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[O:9][O:10][H:11]>>[C:0]([H:3])([H:4])[H:5].[O:1]([C:2]([H:6])([H:7])[H:8])[O:9][O:10][H:11],284.305
[C:0]([S:1][S:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[S:10][H:11]>>[C:0]([H:4])([H:5])[H:6].[S:1]([S:2][C:3]([H:7])([H:8])[H:9])[S:10][H:11],48.9528
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([C:11]([O:12][H:21])([H:19])[H:20])[H:15])([H:13])[H:14]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([C:11]([O:12][H:21])([H:19])[H:20])[H:15])([H:13])[H:14],32.55152
[C:0](#[C:1][H:3])[H:2].[C:4](#[C:5][C:6]=[C:7]=[C:8]([H:10])[H:11])[H:9]>>[C:0](=[C:1][H:3])([H:2])[C:6]([C:5]#[C:4][H:9])=[C:7]=[C:8]([H:10])[H:11],65.73064
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29])[H:9],-11.4223
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][O:14][H:15]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:6])[H:7].[H:5][O:13][O:14][H:15],68.99416
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:17](=[C:18]([H:20])[H:21])[H:19])[H:9])([H:7])[H:8],-4.8116
